Amplified Modulator
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 5:02:21 PM

*Schematic Netlist:
C4 VCARRIER B1 10n
C7 C1 VMODULATED 50p
C8 0 E1 100n
C9 C3 OUT 1u
C11 0 N1 1u
C12 VMODULATED B3 1u
Q1 C1 B1 E1 2N2222a
Q3 C3 B3 E3 2N2222a
R6 B1 0 10k
R10 VCC B1 20k
R13 VCC C1 10k
R14 E1 VSIGNAL 10k
R15 VMODULATED 0 1.5k
R16 C3 VCC 10k
R17 B3 VCC 20k
R18 0 B3 10k
R19 0 N1 5k
R20 0 OUT 10k
R21 N1 E3 500
VCARRIER VCARRIER 0 DC 0 SIN(5mV 10mV 200k 0 0 0) AC 1 0
VCC VCC 0 30V
VSIGNAL VSIGNAL 0 DC 0 SIN(0 8 5k 0 0 0) AC 1 0

.SAVE 0 B1 B3 C1 C3 E1 E3 N1 OUT VCARRIER VCC VMODULATED VSIGNAL VCARRIER#branch
.SAVE VCC#branch VSIGNAL#branch @VCARRIER[z] @VCC[z] @VSIGNAL[z]

*PLOT TRAN -1 1 A=OUT A=VCARRIER A=VSIGNAL

*Selected Circuit Analyses:
.TRAN 1E-7 0.001 0 1E-7

*Models and Subcircuit:
.MODEL 2N2222A NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11 NE=2 BR=4
+ VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11 TF=3.97E-10 CJC=1.52E-11
+ TR=8.5E-8 XTB=1.5 )

.END
