Bistable Multivibrator
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 4:33:39 PM

*Schematic Netlist:
C1 C1 B2 200pF
C2 B1 C2 200pF
C3 K1 N1 200pF
C4 N1 K2 200pF
D1 B1 K1 1N914
D2 B2 K2 1N914
.NODESET V(C1)=0V
.NODESET V(C2)=10V
Q1 C1 B1 0 2N3904
Q2 C2 B2 0 2N3904
R1 VCC C1 1k
R2 VCC C2 1k
R3 C1 B2 39k
R4 B1 C2 39k
R5 C1 K1 10k
R6 C2 K2 10k
R7 B1 VEE 390k
R8 B2 VEE 390k
V1 VCC 0 10V
V2 VEE 0 -10V
V3 N1 0 DC 0V PULSE(0V 10V 0 100n 100n 50u 100u) AC 1V 0

.SAVE 0 B1 B2 C1 C2 K1 K2 N1 VCC VEE V1#branch V2#branch V3#branch @V1[z] @V2[z]
.SAVE @V3[z] @C1[i] @C2[i] @C3[i] @C4[i] @D1[id] @D2[id] @Q1[ib] @Q1[ic] @Q1[ie]
.SAVE @Q2[ib] @Q2[ic] @Q2[ie] @R1[i] @R2[i] @R3[i] @R4[i] @R5[i] @R6[i] @R7[i] @R8[i]
.SAVE @C1[p] @C2[p] @C3[p] @C4[p] @D1[p] @D2[p] @Q1[p] @Q2[p] @R1[p] @R2[p] @R3[p]
.SAVE @R4[p] @R5[p] @R6[p] @R7[p] @R8[p] @V1[p] @V2[p] @V3[p]

*PLOT TRAN -1 1 A=C1 A=C2
*PLOT OP -1 1 A=C1 A=C2

*Selected Circuit Analyses:
.TRAN 2E-6 0.0005 0 2E-6
.OP

*Models and Subcircuit:
.MODEL 1N914 D(IS=7.075E-9 RS=0.78 N=1.95 TT=7.2E-9 CJO=4E-12 VJ=0.657 M=0.4
+ BV=100 IBV=0.0001 )

.MODEL 2N3904 NPN(IS=1.4E-14 BF=300 VAF=100 IKF=0.025 ISE=3E-13 BR=7.5 RC=2.4
+ CJE=4.5E-12 TF=4E-10 CJC=3.5E-12 TR=2.1E-8 XTB=1.5 KF=9E-16 )

.END