Charging and Discharging Capacitors
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 4:48:33 PM

*Schematic Netlist:
C1 0 CHARGING 1uF
C2 DISCHARGING 0 1uF
.IC V(CHARGING)=0V
.IC V(DISCHARGING)=10V
R1 V1 CHARGING 200
R2 0 DISCHARGING 200
V1 V1 0 10V

.SAVE 0 CHARGING DISCHARGING V1 V1#branch @V1[z] @C1[i] @C2[i] @R1[i] @R2[i]
.SAVE @C1[p] @C2[p] @R1[p] @R2[p] @V1[p]

*PLOT TRAN -1 1 A=CHARGING A=DISCHARGING
*PLOT OP -1 1 A=CHARGING A=DISCHARGING

*Selected Circuit Analyses:
.TRAN 1.5E-5 0.002 0 1.5E-5
.OP

.END
