Filter
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 5:52:45 PM

*Schematic Netlist:
C1 OUT A 112pF
C2 B VSS 56pF
R1 IN A 100K
R2 A B 100K
XU1 B OUT VDD VSS OUT LF411C
VDD VDD 0 5V AC 0 0
VIN IN 0 DC 0 SIN(0 5 50K 0 0 0) AC 1 0
VSS VSS 0 -5V AC 0 0

.SAVE 0 A B IN OUT VDD VSS VDD#branch VIN#branch VSS#branch @VDD[z] @VIN[z]
.SAVE @VSS[z] @C1[i] @C2[i] @R1[i] @R2[i] @C1[p] @C2[p] @R1[p] @R2[p] @VDD[p] @VIN[p]
.SAVE @VSS[p]

*PLOT AC -1 1 A=IN A=OUT
*PLOT TRAN -1 1 A=IN A=OUT
*PLOT OP -1 1 A=IN A=OUT

*Selected Circuit Analyses:
.AC DEC 100 0.1 1E6
.TRAN 1E-7 6E-5 0 2E-7
.OP

*Models and Subcircuit:
.SUBCKT LF411C  1 2 3 4 5
C1   11 12 3.498E-12
C2    6  7 15E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
BGND 99  0 V=V(3)*.5 + V(4)*.5
BB    7 99 I=I(VB)*28.29E6 - I(VC)*30E6 + I(VE)*30E6 + I(VLP)*30E6 - I(VLN)*30E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 1.59E-9
ISS   3 10 DC 195E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 50
RO2   7 99 25
RP    3  4 15E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.2
VE   54  4 DC 2.2
VLIM  7  8 DC 0
VLP  91  0 DC 30
VLN   0 92 DC 30
.MODEL DX D(IS=800E-18)
.MODEL JX PJF(IS=12.5E-12 BETA=250.1E-6 VTO=-1)
.ENDS LF411C

.END
